US08791107B2
PREPARATION x27: 5-((6-bromopyridin-2-yl)methyl)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to PREPARATION x9 using 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 300 mg, 1.324 mmol) in DMSO (20 mL) followed by sodium tert-butoxide (153 mg, 1.588 mmol) and 2-bromo-6-(bromomethyl)pyridine (332 mg, 1.324 mmol). 1H NMR (400 MHz, DMSO-d6) δ 2.92-3.04 (m, 1H), 3.12-3.24 (m, 2H), 3.40-3.53 (m, 2H), 3.62-3.72 (m, 1H), 3.86-4.00 (m, 2H), 4.19-4.28 (m, 1H), 4.42-4.64 (m, 2H), 7.31 (s, 4H), 7.36-7.43 (m, 4H), 7.56 (s, 3H), 7.72 (d, J=7.83 Hz, 4H). ESI-MS m/z [M+H]+ calc'd for C15H15BrClN5O, 396.01. found 396.1.

reactant | 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 1.324 mmol, 300 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | sodium tert-butoxide | 1.588 mmol, 153 mg | CC(C)([O-])C.[Na+]
reactant | 2-bromo-6-(bromomethyl)pyridine | 1.324 mmol, 332 mg | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 5-((6-bromopyridin-2-yl)methyl)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | BrC1=CC=CC(=N1)CN1C=2C=NC(=NC2N2C(C1)COCC2)Cl | C15H15BrClN5O
